data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_622217_0,[C:1]([C:2]([N:5][H:9])[H:10])([O:3][H:6])([O:4][H:7])[H:8]>>[C@:1]1([O:3][H:6])([H:8])[C@:2]([O:4][H:7])([H:10])[N:5]1[H:9],72.07088499998733
MR_114609_1,[C:1]([C:2]([N:6]([H:11])[H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:9])[H:10])=[O:7])[H:8]>>[C:1](/[C:2](=[N:6]/[H:12])[H:13])([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:9])[H:10])([O:7][H:11])[H:14])[H:8],72.08029749999923
MR_145308_1,[C:1]([C:2]([O:6][N:4]([H:9])[H:10])([H:13])[H:14])([O:5][N:3]([H:7])[H:8])([H:11])[H:12]>>[C:1]([C:2]([O:5][N:3]([H:7])[H:8])([H:13])[H:14])([O:6][N:4]([H:9])[H:10])([H:11])[H:12],71.96295500001014
MR_229147_1,[C:1](/[N:2]=[C:5](\[N:6]([H:10])[H:11])[C:7]1([H:13])[N:3]([H:9])/[C:4]1=[N:8]\[H:12])([H:14])([H:15])[H:16]>>[C:1]([n:2]1/[c:4](=[N:8]/[H:12])[n:3]([H:9])[c:7]([H:13])[c:5]1[N:6]([H:10])[H:11])([H:14])([H:15])[H:16],51.32134250001244
MR_517562_1,[C:1]([C:3]1([O:7][H:10])[C:4]([C:2]([H:16])([H:17])[H:18])([C:5](=[O:9])[H:11])[N:8]=[C:6]1[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[C:6](\[N:8]=[C:4](\[C:2]([H:16])([H:17])[H:18])[C:5](=[O:9])[H:11])[H:12])[O:7][H:10])([H:13])([H:14])[H:15],15.126515000046652
MR_110966_0,[C:1]1([N:7]([H:12])[H:13])([H:11])[C:6]([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])([N:5]([C:3]([H:17])([H:18])[H:19])[H:10])[O:8]1>>[C:1]([N:5]([C:3]([H:17])([H:18])[H:19])[H:10])([C:6]([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])=[O:8])([N:7]([H:12])[H:13])[H:11],17.796527499975667
MR_126151_1,[C@@:1]12([H:10])[C@@:3]([N:5]([H:8])[H:9])([C@@:4]([C:2]([H:12])([H:13])[H:14])([H:11])[O:7]1)[O:6]2>>[C:1]1([H:10])([H:11])[O:6][C:3]([N:5]([H:8])[H:9])=[C:4]([C:2]([H:12])([H:13])[H:14])[O:7]1,37.34880000001283
MR_612660_2,[C:1]1([C:2]([H:13])([H:14])[H:15])([O:8][H:11])[C:3]([C:4](=[C:5]([H:16])[H:17])[H:12])([O:6][O:7][H:10])[O:9]1>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4](=[C:5]([H:16])[H:17])[H:12])=[O:9])([O:6][O:7][H:10])[O:8][H:11],31.060622500016137
MR_397800_1,[C:1](=[C:3]([H:16])[H:17])([C:7]([C:6]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[H:10])[O:9][H:15])=[C:8]([H:21])[H:22])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C:2]([H:12])([H:13])[H:14])[H:10])([C:7]([C:6]([C:4]([H:18])([H:19])[H:20])=[O:9])=[C:8]([H:21])[H:22])[H:11],58.34306749997623
MR_610167_0,[C:1](/[C:2](=[C:3](/[N:5]([H:11])[H:12])[C:8](=[C:4]([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])[H:17])[O:9][H:10])([H:18])([H:19])[H:20]>>[C:1]([C:2]1([O:9][H:10])[C:3]([N:5]([H:11])[H:12])=[C:8]([H:17])[C:4]1([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])([H:18])([H:19])[H:20],37.15113750001251
MR_615745_2,[C:1]([C:3](=[O:7])[H:12])([O:4][N:2]([H:10])[H:11])([O:5][H:8])[O:6][H:9]>>[C:1]1([O:5][H:8])([O:6][H:9])[C@:3]([O:4][N:2]([H:10])[H:11])([H:12])[O:7]1,44.785929999997904
MR_209522_1,[C:1]([C:2](/[C:6]([C:3]([H:16])([H:17])[H:18])=[C:7](\[C:4]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14])([O:8][N:5]([H:9])[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:2]([H:13])([H:14])[C:6]1([C:3]([H:16])([H:17])[H:18])[C@@:7]([C:4]([H:19])([H:20])[H:21])([O:8][N:5]([H:9])[H:10])[H:15],68.8562025000067
MR_45342_1,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[C:5]([N:4]([N:6]([H:9])[H:10])[H:8])=[C:7]([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[N:4]([C:5](=[C:7]([H:17])[H:18])[H:8])[N:6]([H:9])[H:10])([H:11])([H:12])[H:13],70.5793175000079
MR_565156_0,[C:1]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])([O:5][O:6][C:2]([H:12])([H:13])[H:14])[H:7]>>[C@:1]([N:3]([H:8])[H:9])([O:5][N:4]([H:10])[H:11])([O:6][C:2]([H:12])([H:13])[H:14])[H:7],56.67831000000604
MR_301120_1,[C:1]([C:5]([C:2]([H:17])([H:18])[H:19])=[C:3](/[C:4](=[C:7](\[N:6]([H:12])[H:13])[H:14])[O:9][H:11])[O:8][H:10])([H:15])([H:16])[H:20]>>[C:1]([C:5]1([C:2]([H:17])([H:18])[H:19])[C:3]([O:8][H:10])=[C:4]([O:9][H:11])[C@:7]1([N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:20],44.29585249998681
MR_306150_0,[C:1](/[N:5]=[C:2](\[O:4][H:7])[N:6]=[C:3]([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:5]1[C:2]([O:4][H:7])=[N:6][C:3]1([H:11])[H:12])([H:8])([H:9])[H:10],36.82860250000644
MR_310986_0,[C@:1]1([C:4]([H:14])([H:15])[H:16])([N:5]([C:3]([H:11])([H:12])[H:13])[N:8]=[C:6]([H:17])[H:18])[C:2]([H:9])([H:10])[O:7]1>>[C:1]1([C:4]([H:14])([H:15])[H:16])([N:5]([C:3]([H:11])([H:12])[H:13])[N:8]=[C:6]([H:17])[H:18])[C:2]([H:9])([H:10])[O:7]1,50.644269999974085
MR_622426_1,[C:1]1([C:2]([H:11])([H:13])[H:14])([C:3]([H:12])([H:15])[H:16])[C:4]([C:5](=[O:7])[H:10])([O:8][H:9])[O:6]1>>[C:1]1([C:2]([H:11])([H:13])[H:14])([C:3]([H:12])([H:15])[H:16])[O:6][C:4]([O:8][H:9])=[C:5]([H:10])[O:7]1,42.3066775000153
MR_405012_2,[C:1]1([O:8][H:9])([H:10])[C:3]([H:13])([H:14])[N:7]([C:5]([H:18])([H:19])[H:20])[C:2]([H:11])([H:12])[N:6]1[C:4]([H:15])([H:16])[H:17]>>[C:1]([C:3]([N:7]([C:2]([N:6]([C:4]([H:15])([H:16])[H:17])[H:9])([H:11])[H:12])[C:5]([H:18])([H:19])[H:20])([H:13])[H:14])(=[O:8])[H:10],33.11944999999014
